US05773438
β-Methallylsuccinic anhydride (539 g, 3.50 mole) was dissolved in toluene (800 mL) in a 1700 mL Parr stainless steel bottle fitted with a heating jacket. 10% Pd/C (3.60 g) was added and the bottle was connected to a Parr 2 L shaker fitted with two 4 L hydrogen tanks. After several evacuations and refilling with hydrogen, the shaker was started with the heater controlled for 60° C. The initial pressure was 60 lbs. When the pressure fell to 10 lbs, the tanks were repressurized to 60 lbs. After two hours, the controller was reset to 70° C. and the reaction was continued for another 12 hours. The heat was then turned off and after another 5 hours, the shaker was stopped. The reaction vessel was evacuated and the reaction mixture was filtered and concentrated. Distillation of the residue through the Vigreux column described above (P=9-10 mm Hg, T=180° C.) gave isobutylsuccinic anhydride (532.9 g, 97.6% yield).

reactant | β-Methallylsuccinic anhydride | 3.50 mole, 539 g | C(C(C)=C)C1CC(=O)OC1=O | C8H10O3
reactant | hydrogen | [H][H] | H2
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 3.60 g | [Pd] | Pd
product | isobutylsuccinic anhydride | 532.9 g, 97.6% yield | C(C(C)C)C1C(=O)OC(C1)=O | C8H12O3
